US04970213
The reaction is carried out under the conditions of Reference Example 3 but starting from 1.7 g of 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 2.5 g of 2,6-dimethylpiperazine in 20 cm3 of pyridine. 1.1 g of 8-(3,5-dimethyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid hemihydrate are obtained in the form of a yellow solid melting at 294°-295° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.7 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | 2,6-dimethylpiperazine | 2.5 g | CC1NC(CNC1)C | C6H14N2
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | 8-(3,5-dimethyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid hemihydrate | 1.1 g | O.CC1CN(CC(N1)C)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F.CC1CN(CC(N1)C)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | InChI=1S/2C20H21FN4O3.H2O/c2*1-10-7-25(8-11(2)22-10)17-6-16-12(5-15(17)21)4-13-18(26)14(20(27)28)9-24(3)19(13)23-16;/h2*4-6,9-11,22H,7-8H2,1-3H3,(H,27,28);1H2
